US08633173B2
(2-Methoxy-phenyl)-[8-(3-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine was prepared from (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(2-methoxy-phenyl)-amine (50.0 mg, 0.157 mmol) and (3-trifluoromethylphenyl)boronic acid (33.0 mg, 0.174 mmol) with Pd(dppf)Cl2 (0.012 g) as the catalyst in a manner analogous to Step 2c. The reaction product was isolated as a white solid (0.042 g, 70%). MP=137-141° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.47 (dd, J=6.7, 0.9 Hz, 1H), 8.43 (dd, J=8.0, 1.3 Hz, 1H), 8.34 (s, 1H), 8.25 (d, J=7.4 Hz, 1H), 7.71-7.58 (m, 4H), 7.08-6.98 (m, 4H), 3.93 (s, 3H). MS=385 (MH)+.

reactant | (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(2-methoxy-phenyl)-amine | 0.157 mmol, 50.0 mg | BrC=1C=2N(C=CC1)N=C(N2)NC2=C(C=CC=C2)OC | C13H11BrN4O
reactant | (3-trifluoromethylphenyl)boronic acid | 0.174 mmol, 33.0 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
catalyst | Pd(dppf)Cl2 | 0.012 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2-Methoxy-phenyl)-[8-(3-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | COC1=C(C=CC=C1)NC1=NN2C(C(=CC=C2)C2=CC(=CC=C2)C(F)(F)F)=N1 | C20H15F3N4O
